US09334278B2
A microwave vial was charged with a mixture of 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (68.5 mg, 160 μmol), 1-methyl-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-b]pyridine (22 mg, 160 μmol), xantphos (27.8 mg, 48.1 μmol), Pd2(dba)3 (14.7 mg, 16.0 μmol), Cs2CO3 (105 mg, 321 μmol) and dioxane (2 mL). The reaction mixture was purged with argon and then heated to 150° C. for 20 min under microwave irradiation. The mixture was diluted with CH2Cl2 and then filtered through a pad of celite. The filtrate was concentrated in vacuo and the residue purified by chromatography (40 g column, 50 μm silica-gel from Analogix, 0 to 5% 9:1 methanol:ammonium hydroxide in CH2Cl2, min) to give N-tert-butyl-2-(1-methyl-6,7-dihydro-1H-pyrazolo[4,3-b]pyridin-4(5H)-yl)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (77 mg, 99%) as a yellow foam. 1H NMR (CHLOROFORM-d) δ: 8.29 (s, 1H), 8.14 (s, 1H), 8.10 (s, 1H), 7.88 (s, 1H), 5.63 (s, 2H), 3.93-4.01 (m, 2H), 3.87 (s, 3H), 3.52-3.63 (m, 2H), 2.80-2.91 (m, 2H), 2.16-2.29 (m, 2H), 1.55-1.61 (m, 11H), 0.87-1.02 (m, 2H), 0.00 (s, 9H). MS (EI/CI) m/z: 484.0 [M+H]+.

reactant | 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 160 μmol, 68.5 mg | BrC=1N=C2C(=NC1)N(C=C2C(=O)NC(C)(C)C)COCC[Si](C)(C)C | C17H27BrN4O2Si
reactant | 1-methyl-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-b]pyridine | 160 μmol, 22 mg | CN1N=CC=2NCCCC21 | C7H11N3
reactant | xantphos | 48.1 μmol, 27.8 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 321 μmol, 105 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 16.0 μmol, 14.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-tert-butyl-2-(1-methyl-6,7-dihydro-1H-pyrazolo[4,3-b]pyridin-4(5H)-yl)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 77 mg, 99% | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)N2C1=C(CCC2)N(N=C1)C)COCC[Si](C)(C)C | C24H37N7O2Si
